US09227978B2
4,5-Dichloro-2-vinylbenzenamine
A mixture of 4,5-dichloro-2-iodobenzenamine (6 g, 20.8 mmol), tributyl(vinyl)stannane (6.6 g, 20.8 mmol), Pd(PPh3)4 (2.4 g, 2.1 mmol) in toluene (60 mL) was stirred at reflux under argon for 6 h. The mixture was allowed to cool to room temperature, quenched with aqueous KF solution and then extracted with ethyl acetate. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (petroleum ether/ethyl acetate=4:1) to afford the desired product (3.0 g, 76.7% yield) as a colorless oil.

reactant | 4,5-dichloro-2-iodobenzenamine | 20.8 mmol, 6 g | ClC1=CC(=C(C=C1Cl)N)I | C6H4Cl2IN
reactant | tributyl(vinyl)stannane | 20.8 mmol, 6.6 g | C(CCC)[Sn](C=C)(CCCC)CCCC
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 2.1 mmol, 2.4 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4,5-Dichloro-2-vinylbenzenamine | 3.0 g, 76.7% yield | ClC1=CC(=C(C=C1Cl)N)C=C | C8H7Cl2N
